US08957062B2
Step A: benzyl 4-((1R,2S)-2-(2-(4-(1H-tetrazol-1-yl)phenoxy)ethyl)cyclopropyl)piperidine-1-carboxylate
4-(1H-Tetrazol-1-yl)phenol (1.10 g, 6.80 mmol), benzyl 441R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (2.06 g, 6.80 mmol), and triphenylphosphine (5.34 g, 20.4 mmol) were dissolved in tetrahydrofuran (100 mL) under an atmosphere of nitrogen and cooled at 0° C. Diisopropyl azodicarboxylate (2.47 g, 12.2 mmol) was added. The mixture was warmed to RT and stirred overnight. The mixture was diluted with ethyl acetate (400 mL) and water (200 mL), and the layers were separated. The organic layer was washed with brine (2×200 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (500 g of silica gel, eluted with a gradient of hexanes/ethyl acetate, 9:1, 1 L; 4:1, 1 L; 7:3, 1 L; 1:1, 2 L) provide the title compound as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.92 (s, 1H), 7.60 (d, J=9.0 Hz, 2H), 7.40-7.28 (m, 5H), 7.06 (d, J=9.0 Hz, 2H), 5.13 (s, 2H), 4.30-4.10 (m, 2H), 4.12 (t, J=6.5 Hz, 2H), 2.90-2.60 (m, 2H), 2.25-2.10 (m, 1H), 1.90-1.65 (m, 2H), 1.62-1.45 (m, 1H), 1.45-1.20 (m, 2H), 1.10-0.85 (m, 2H), 0.78-0.55 (m, 2H), −0.10 (q, J=5.1 Hz, 1H). MS (Multimode) m/z 448 [M+H]+.

reactant | 4-(1H-Tetrazol-1-yl)phenol | 6.80 mmol, 1.10 g | N1(N=NN=C1)C1=CC=C(C=C1)O | C7H6N4O
reactant | piperidine-1-carboxylate | 6.80 mmol, 2.06 g | N1(CCCCC1)C(=O)[O-]
reactant | triphenylphosphine | 20.4 mmol, 5.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 12.2 mmol, 2.47 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | benzyl 4-((1R,2S)-2-(2-(4-(1H-tetrazol-1-yl)phenoxy)ethyl)cyclopropyl)piperidine-1-carboxylate | N1(N=NN=C1)C1=CC=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1 | C25H29N5O3
